US06117875
To an ice cooled suspension of 3-(2-pyridyl)acrylic acid (1.07 g) in dry methylene chloride (80 ml) was added triethylamine (1.46 g) and pivaloyl chloride (0.87 g) and the mixture was stirred for 2 hours. After the clear reaction mixture was obtained, 2-[3-(3-aminophenyl)phenylamino]-3-nitropyridine (2.0 g) was added thereto and stirred under reflux overnight. The reaction was chromatographed on silica gel (chloroform-methanol 50:1 as an eluent) to give 2-[3-[3-[(E)-3-(2-pyridyl)acryloylamino]phenyl]phenylamino]-3-nitropyridine as an orange crystal (2.85 g).

reactant | 3-(2-pyridyl)acrylic acid | 1.07 g | N1=C(C=CC=C1)C=CC(=O)O | C8H7NO2
reactant | triethylamine | 1.46 g | C(C)N(CC)CC | C6H15N
reactant | pivaloyl chloride | 0.87 g | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | 2-[3-(3-aminophenyl)phenylamino]-3-nitropyridine | 2.0 g | NC=1C=C(C=CC1)C=1C=C(C=CC1)NC1=NC=CC=C1[N+](=O)[O-] | C17H14N4O2
solvent | methylene chloride | 80 ml | C(Cl)Cl | CH2Cl2
product | 2-[3-[3-[(E)-3-(2-pyridyl)acryloylamino]phenyl]phenylamino]-3-nitropyridine | 2.85 g | N1=C(C=CC=C1)/C=C/C(=O)NC=1C=C(C=CC1)C=1C=C(C=CC1)NC1=NC=CC=C1[N+](=O)[O-] | C25H19N5O3
